US08859541B2
B3b) 6-(2-phenylethynyl)-4-(trifluoromethyl)pyridin-2-amine
A mixture of 6-chloro-4-(trifluoromethyl)pyridin-2-amine (1.0 g, 5.09 mmol) ethynylbenzene (779 mg, 7.63 mmol), 1,1′-Bis(diphenylphosphino)ferrocene]dichloro-palladium(II) (372 mg, 0.51 mmol), copper(I) iodide (96 mg, 0.51 mmol), triethylamine (1.8 ml, 12.7 mmol), ACN (10 ml) and THF (5 ml) is stirred for 6 h at 90° C. The mixture is concentrated in vacuo, water is added (100 ml) and the mixture extracted with EtOAc. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by NP chromatography. Yield: 680 mg (51%). HPLC-MS: M+H=263.

reactant | 6-chloro-4-(trifluoromethyl)pyridin-2-amine | 5.09 mmol, 1.0 g | ClC1=CC(=CC(=N1)N)C(F)(F)F | C6H4ClF3N2
reactant | triethylamine | 12.7 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | ACN | 10 ml | C(C)#N | C2H3N
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloro-palladium(II) | 0.51 mmol, 372 mg | Cl[Pd]Cl
catalyst | copper(I) iodide | 0.51 mmol, 96 mg | [Cu]I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-(2-phenylethynyl)-4-(trifluoromethyl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=CC(=CC(=N1)N)C(F)(F)F | C14H9F3N2
